US03935261
8N Jones' reagent (3.24 ml.; J. Chem. Soc., 1953, 461) was added to a stirred solution of 2-(7-hydroxyheptyl)-3-(3-oxo-1-octenyl)cyclopentanol (1.4 g., 0.0043 mole) in acetone (10 ml.) at 15°-25°C., at a rate such that the deep red coloration caused by the addition of one drop of reagent had changed to green before addition of the next drop. The reaction mixture was diluted with sufficient water to dissolve the precipitated chromium salts, and was then extracted three times with diethyl ether. The combined ether extracts were washed with 2N aqueous sulphuric acid and then added to 10% aqueous sodium carbonate (100 ml.) and stirred for 1 hour. The aqueous layer (containing the desired acid as the sodium salt) was separated and washed with diethyl ether. The solution was then covered with a layer of diethyl ether, cooled to below 20°C. and acidified to pH 1 by the dropwise addition of concentrated hydrochloric acid. The ether layer was separated and the aqueous layer was again extracted with diethyl ether. The combined extracts were dried over magnesium sulphate, and the other was removed in vacuo to give the crude acid (0.79 g.). This was purified by preparative thin layer chromatography on silica gel using a 65:15:1 mixture of benzene, dioxane and acetic acid as solvent. Evaporation gave pure 7-[2-oxo-5-(3-oxo-1-octeny)cyclopentyl]heptanoic acid (0.38 g., 26%), λmax 228 mμ, ε 11,600 (ethanol), νmax 1730 cm-1, 1700 cm-1, 1670 cm-1, 1625 cm-1 and 980 cm-1 (liquid film). N.M.R. (approximately 10% solution in deuterochloroform) 0.9 δ(triplet J=5c/s, terminal CH3), 1.2-2.0 δ(overlapping multiplets, cyclic and chain CH2), 2.0-2.8 δ (multiplet CH2C=O), 6.17 δ (doublet J=16c/s, CH=CHC=O) and 6.8 δ (doublet of doublets J=16c/s and ##EQU4##

reactant | Jones' reagent | 8N, 3.24 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-(7-hydroxyheptyl)-3-(3-oxo-1-octenyl)cyclopentanol | 0.0043 mole, 1.4 g | OCCCCCCCC1C(CCC1C=CC(CCCCC)=O)O | C20H36O3
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
catalyst | chromium | [Cr] | Cr
product | 7-[2-oxo-5-(3-oxo-1-octeny)cyclopentyl]heptanoic acid | 0.38 g, 26% | O=C1C(C(CC1)C=CC(CCCCC)=O)CCCCCCC(=O)O | C20H32O4
